US09328134B2
To a solution of diethyl (((2S,4R,5S,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-3-(hydroxyimino)tetrahydro-2H-pyran-2-yl)methyl)phosphonate (2.0 g, 3.35 mmol, 1.0 equiv) in dry DCM (40 mL) was added catalytic DMAP, pyridine (2.1 mL, 26.8 mmol, 8.0 equiv) and Ac2O (1.26 mL, 13.4 mmol, 4.0 equiv) slowly. The mixture was stirred at room temperature for 16 hours and then the concentrated in vacuo. The product thus obtained was then purified by silica gel chromatography, eluting with MeOH:acetone:chloroform:petroleum ether (0.5:0.5:1:8), to give diethyl (((2 S,4R,5 S,6R)-3-(acetoxyimino)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)tetrahydro-2H-pyran-2-yl)methyl)phosphonate as a colorless oil (1.5 g, 70%). 1H NMR (400 MHz, CDCl3) δ 7.32 (dddd, J=21.0, 10.3, 8.1, 6.0 Hz, 13H), 7.20 (ddq, J=8.2, 5.4, 3.0 Hz, 2H), 5.48-5.38 (m, 1H), 4.90 (d, J=11.6 Hz, 1H), 4.72 (d, J=11.5 Hz, 1H), 4.62-4.44 (m, 5H), 4.18-4.02 (m, 4H), 3.95-3.83 (m, 2H), 3.63 (qd, J=10.1, 4.8 Hz, 2H), 2.61-2.46 (m, 1H), 2.26-2.15 (m, 4H), 1.32 (td, J=7.1, 1.9 Hz, 6H). MS ESI (M+1) 639.8; calc for C34H42NO9P 639.3.

reactant | diethyl (((2S,4R,5S,6R)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-3-(hydroxyimino)tetrahydro-2H-pyran-2-yl)methyl)phosphonate | 3.35 mmol, 2.0 g, 1.0 equiv | C(C1=CC=CC=C1)O[C@@H]1C([C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)CP(OCC)(OCC)=O)=NO | C32H40NO8P
reactant | pyridine | 26.8 mmol, 2.1 mL, 8.0 equiv | N1=CC=CC=C1 | C5H5N
reactant | Ac2O | 13.4 mmol, 1.26 mL, 4.0 equiv | CC(=O)OC(=O)C | C4H6O3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | diethyl (((2 S,4R,5 S,6R)-3-(acetoxyimino)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)tetrahydro-2H-pyran-2-yl)methyl)phosphonate | 1.5 g, 70% | C(C)(=O)ON=C1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CP(OCC)(OCC)=O | C34H42NO9P
